US07799822B2
At 0° C., 2,2,2-trifluoro-1-(2-phenylpyrrolidin-1-yl)ethanone (2.0 g, 8.2 mmol) was added to chlorosulfonic acid (10 mL) and allowed to warm to 25° C. over 30 min. Then the mixture was poured into ice water and extracted with EtOAc. The organic layer was concentrated to obtain 4-(1-(2,2,2-trifluoroacetyl)pyrrolidin-2-yl)benzene-1-sulfonyl chloride as a clear oil which was used in the next reaction step without further purification.

reactant | 2,2,2-trifluoro-1-(2-phenylpyrrolidin-1-yl)ethanone | 8.2 mmol, 2.0 g | FC(C(=O)N1C(CCC1)C1=CC=CC=C1)(F)F | C12H12F3NO
reactant | chlorosulfonic acid | 10 mL | ClS(=O)(=O)O | ClHO3S
product | 4-(1-(2,2,2-trifluoroacetyl)pyrrolidin-2-yl)benzene-1-sulfonyl chloride | FC(C(=O)N1C(CCC1)C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C12H11ClF3NO3S
